US05004558
(A) Preparation of n-decylsulfonylsuccinic acid (a precursor)
In a 400 ml beaker equipped with a heating mantle, alcohol thermometer, 50 ml dropping funnel, and a stirrer, 100 ml of glacial acetic acid was heated to about 50° C. To this was added 101.32 g of the dry solid C10H21SCH(COOH)CH2COOH.12H2O described above, with stirring and heating to obtain a thick white slurry. Via the dropping funnel, 22.64 ml of 70% H2O2 was then added over a period of 114 minutes at 45°-53° C., resulting in an exothermic reaction. Agitation was then continued for 31/2 hours at 47°-53° C. The resulting homogeneous solution was diluted with 50 ml of water and then cooled to ambient temperature, becoming a thick white slurry which was then held overnight. The slurry was cooled to 5°-10° C., and the solids were collected by filtration. The solids were dissolved in 515 ml of ethyl acetate. This solution was filtered to remove a small amount of insoluble material, washed with three 200 ml portions of water and transferred to a 4,000 ml beaker. Enough ethylacetate was then boiled off to reduce the solution volume to about 300 ml. Heating was discontinued, and with agitation, 1,500 ml of petroleum ether was added via a dropping funnel, resulting in the precipitation of a white solid product. The slurry was cooled to 5°-10° C., and the solids were recovered by filtration. The solids were washed by reslurrying in petroleum ether, again recovered by filtration, and dried overnight at ambient temperature. The resulting product weighed 34.63 g, and NMR analysis in DMSO-D6 showed that it was n-decylsulfonylsuccinic acid, C10H21SO2CH(COOH)CH2COOH. Water was not present at detectable levels, and the only detectable impurity was about 0.2% of fumaric acid. The yield was 53.7% of the theoretical amount, based upon the amount of the sulfide used.

reactant | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
reactant | C10H21SCH(COOH)CH2COOH | C(CCCCCCCCC)SC(C(=O)O)CC(=O)O | C14H26O4S
reactant | H2O2 | 22.64 ml | OO | H2O2
reactant | water | 50 ml | O | H2O
product | n-decylsulfonylsuccinic acid | C(CCCCCCCCC)S(=O)(=O)C(C(=O)O)CC(=O)O | C14H26O6S
